US05639732
(Ethyl)(phenyl)phosphinic acid:
A solution of ethyl (ethyl)(phenyl)phosphinate (130 mg, 0.66 mmol) in ethanol (0.5 ml) was treated with 4N HCl (1 ml) and refluxed for 22 hours. Tlc analysis revealed some residual starting material. The ethanol was removed on the rotary evaporator, an additional aliquot of 4N HCl (1 ml) was added, and reflux was resumed for a further six hours whereupon tlc analysis revealed complete consumption of starting material. The mixture was lyophillized to afford 110 mg (99%) of the title compound as a white solid; MS: 171 m/z (M+H)+ ; analysis calculated for C8H11O2P: C, 56.47; H, 6.53; P, 18.20; Found: C, 56.23; H, 6.35; P, 18.52.

reactant | ethyl (ethyl)(phenyl)phosphinate | 0.66 mmol, 130 mg | C(C)P(OCC)(=O)C1=CC=CC=C1 | C10H15O2P
reactant | HCl | 4N, 1 ml | Cl | ClH
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | (Ethyl)(phenyl)phosphinic acid | 110 mg, 99% | C(C)P(O)(=O)C1=CC=CC=C1 | C8H11O2P
